US04873328
(RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-isopropylidenehydrazinopyridazine dihydrochloride
A solution of 3-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-(2-triphenylmethylhydrazino)pyridazine (330 g) and 37% hydrochloric acid (0.12 liter) in methanol (0.5 liter) and acetone (0.5 liter) was heated at reflux for 3 hours, then the solvent was evaporated under vacuum. The residue was diluted with n-butanol (100 ml), evaporated to dryness and triturated with acetone (1 liter) to afford 235 g of crude product which was dissolved in hot methanol (0.65 liter). The solution was filtered and diluted, while hot, with acetone (1.6 liter).

reactant | 3-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-(2-triphenylmethylhydrazino)pyridazine | 330 g | COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H39N5O4
reactant | hydrochloric acid | 0.12 liter | Cl | ClH
solvent | methanol | 0.5 liter | CO | CH4O
solvent | acetone | 0.5 liter | CC(=O)C | C3H6O
product | (RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-isopropylidenehydrazinopyridazine dihydrochloride | 235 g | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN=C(C)C)O | InChI=1S/C20H29N5O4.2ClH/c1-14(2)22-23-19-7-8-20(25-24-19)29-13-16(26)12-21-10-9-15-5-6-17(27-3)18(11-15)28-4;;/h5-8,11,16,21,26H,9-10,12-13H2,1-4H3,(H,23,24);2*1H
